US08207147B2
Preparation 5: cis-[3-(3-Pyridin 4-yl-[1,2,4]oxadiazol-5-yl)cyclopentyl]methanol
Sodium hydride (10 mg of a 60% dispersion in oil, 2.5 mmol) was added to a solution of N-hydroxyisonicotinamidine (344 mg, 2.5 mmol) in anhydrous THF (3 ml) and the mixture heated under reflux for 1 h. cis-Methyl-3-hydroxymethylcyclopentane-1-carboxylate (396 mg, 2.5 mmol) was added in one portion and heating was continued for 18 h. After cooling, the solution was filtered through celite and the filtrate concentrated in vacuo. The residue was purified by flash chromatography (IH-EtOAc, 1:1 to 0:1) to afford the title compound: RT=2.59 min, m/z (ES+)=246.1 [M+H]+.

reactant | Sodium hydride | [H-].[Na+]
reactant | N-hydroxyisonicotinamidine | 2.5 mmol, 344 mg | ONC(C1=CC=NC=C1)=N | C6H7N3O
reactant | cis-Methyl-3-hydroxymethylcyclopentane-1-carboxylate | 2.5 mmol, 396 mg | COC(=O)[C@@H]1C[C@@H](CC1)CO | C8H14O3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | cis-[3-(3-Pyridin 4-yl-[1,2,4]oxadiazol-5-yl)cyclopentyl]methanol | N1=CC=C(C=C1)C1=NOC(=N1)[C@H]1C[C@H](CC1)CO | C13H15N3O2
